US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-N,N-diphenyl-1-piperidinepropanamide
A mixture of 12.0 g (0.040 mole) of α,α-bis(4-fluorophenyl)-4-piperidine methanol, 10.3 g (0.040 mole) of 3-chloro-N,N-diphenylpropanamide, 17.0 g (0.160 mole) of anhydrous sodium carbonate and 0.3 g (0.002 mole) of potassium iodide in 100 ml of N,N-dimethylformamide was heated on a steam bath for 16 h. The mixture was poured into 2 L of water and a solid precipitated. After standing 3 h, the solid was collected by filtration, washed with water, dried and recrystallized from benzene-petroleum ether (30°-60° C.) to yield 18.7 g (90%) of a white solid, mp 160°-162° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidine methanol | 0.040 mole, 12.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 3-chloro-N,N-diphenylpropanamide | 0.040 mole, 10.3 g | ClCCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C15H14ClNO
reactant | sodium carbonate | 0.160 mole, 17.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 2 L | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | potassium iodide | 0.002 mole, 0.3 g | [I-].[K+]
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-N,N-diphenyl-1-piperidinepropanamide | 18.7 g, 90% | FC1=CC=C(C=C1)C(C1CCN(CC1)CCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)(O)C1=CC=C(C=C1)F | C33H32F2N2O2
